US07696195B2
(R)-1-(3,4-diamino-5-methyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
260 mg (0.37 mmol) (R)-1-(4-amino-3-methyl-5-nitro-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate were dissolved in 25 mL THF and combined with 130 mg 10% Pd/C. The mixture was hydrogenated for 4.5 h in a Parr apparatus at 50° C. under 50 psi hydrogen pressure. Then the catalyst was filtered off, the filtrate was evaporated down i.vac., the residue was dissolved in a little DCM, combined with diethyl ether, the precipitate was suction filtered and dried.

reactant | (R)-1-(4-amino-3-methyl-5-nitro-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.37 mmol, 260 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC(=C(C(=C1)[N+](=O)[O-])N)C)C=CC=C2 | C35H48N8O6
reactant | hydrogen | [H][H] | H2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | (R)-1-(3,4-diamino-5-methyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC(=C(C(=C1)C)N)N)C=CC=C2 | C35H50N8O4
